US05208240
Scheme A, step g: (+)-4-[[2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid
Dissolve (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester (5.74 g, 18.6 mmol) in ethyl ether and adsorb onto silica gel (18 g). Evaporate the solvent in vacuo to leave a white powder. Suspend the powder in pH 7 phosphate buffer (600 mL of a 0.1M solution). Add lipase P-30 (5.74 g) and stir for 16 hours. Filter and extract with ethyl ether (3×400 mL). Dry (MgSO4), evaporate the solvent in vacuo and purify by flash chromatography (5→10% methanol/chloroform) to give the title compound (5.09 g, 98% ee after reesterification with diazomethane); [α]d 20 =+18.9° (C=0.97, CHCl3).

reactant | (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester | 18.6 mmol, 5.74 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)OC)C)=O)C | C17H24O5
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | phosphate | pH 7 | P(=O)([O-])([O-])[O-]
product | (+)-4-[[2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid | 5.09 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)O)C)=O)C | C16H22O5
